US09315493B2
Process 4: Trimethylsilyl azide (8.68 g, 75.3 mmol) and dibutyltin oxide (55 mg, 0.221 mmol) were added to toluene (20 mL) solution of 2-{5-{[4-butyl-1-(5-methoxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}benzonitrile (200 mg, 0.43 mmol) and stirred for 24 hours at 95° C. under argon atmosphere. The residues obtained by removing the reaction solvent by distillation was separated and purified by silica gel column chromatography (chloroform:methanol=100:1) to give 5-{{6-[2-(1H-tetrazol-5-yl)phenyl]pyridin-3-yl}methyl}-6-butyl-3-(5-methoxypyrimidin-2-yl)-2-methylpyrimidin-4(3H)-one (174 mg, 80%) as yellow oil.

reactant | Trimethylsilyl azide | 75.3 mmol, 8.68 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.221 mmol, 55 mg | C(CCC)[Sn](CCCC)=O
reactant | 2-{5-{[4-butyl-1-(5-methoxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}benzonitrile | 0.43 mmol, 200 mg | C(CCC)C=1N=C(N(C(C1CC=1C=CC(=NC1)C1=C(C#N)C=CC=C1)=O)C1=NC=C(C=N1)OC)C | C27H26N6O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-{{6-[2-(1H-tetrazol-5-yl)phenyl]pyridin-3-yl}methyl}-6-butyl-3-(5-methoxypyrimidin-2-yl)-2-methylpyrimidin-4(3H)-one | 174 mg, 80% | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=N1)CC=1C(N(C(=NC1CCCC)C)C1=NC=C(C=N1)OC)=O | C27H27N9O2
